US07157487B2
In methanol (20 ml), 10% palladium-carbon (0.30 g, 20 wt %) was added to 3-methyl-2-nitrophenol (1.50 g, 9.80 mmol) and they were subjected to catalytic hydrogenation for 4 days. From the reaction mixture, an insoluble matter was filtered off through Celite. The filtrate was distilled under reduced pressure to remove the solvent to give 2-amino-3-methylphenol (1.19 g, 99%) as a brown oil.

reactant | 3-methyl-2-nitrophenol | 9.80 mmol, 1.50 g | CC=1C(=C(C=CC1)O)[N+](=O)[O-] | C7H7NO3
solvent | methanol | 20 ml | CO | CH4O
catalyst | palladium-carbon | 0.30 g | [C].[Pd]
product | 2-amino-3-methylphenol | 1.19 g, 99% | NC1=C(C=CC=C1C)O | C7H9NO
